US08466150B2
3-(3-bromo-4-fluorophenyl)-3-methoxy-4,5,6,7-tetrahydroisobenzofuran-1(3H)-one
To a solution of 2-bromo-1-fluoro-4-iodobenzene (13.23 g, 44 mmol) in anhydrous tetrahydrofuran (30 mL) was added isopropylmagnesium chloride (2.0 M solution in tetrahydrofuran, 24.18 mL, 48.4 mmol) at −20° C. After the addition, the reaction mixture was stirred at 0° C. for 3 hours, and was added to a solution of 3,4,5,6-tetrahydrophthalic anhydride (6.08 g, 40 mmol) in anhydrous tetrahydrofuran (60 mL) at −78° C. The mixture was stirred for 2 hours, and a saturated aqueous ammonium chloride solution was added to the reaction mixture, which then was stirred at room temperature for 30 minutes. Anhydrous magnesium sulfate was added to the reaction mixture, and the mixture was filtered. The filtrate was concentrated. Thionyl chloride (10.4 mL, 142 mol) was added dropwise to methanol (40 mL) at −10° C., and the solution was stirred at 0° C. for 30 minutes. To the thionyl chloride solution was then added the residue from the filtrate in anhydrous methanol (15 mL). The reaction mixture was stirred at room temperature overnight, and was concentrated. The residue was dissolved in methylene chloride (40 mL), and was treated with triethylamine (5.58 mL) at 0° C. for 1 hour. Water was added, and the mixture was washed with sodium bicarbonate, brine and water. The organic phase was dried over magnesium sulfate, filtered and concentrated. The residue was separated by flash chromatography (10-35% gradient ethyl acetate in hexane) to provide the title compound. MS (DCI/NH3) m/z 341, 343 (M+H)+.

reactant | 2-bromo-1-fluoro-4-iodobenzene | 44 mmol, 13.23 g | BrC1=C(C=CC(=C1)I)F | C6H3BrFI
reactant | isopropylmagnesium chloride | 48.4 mmol, 2.0 M, 24.18 mL | C(C)(C)[Mg]Cl
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 40 mmol, 6.08 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Thionyl chloride | 142 mol, 10.4 mL | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 40 mL | CO | CH4O
product | 3-(3-bromo-4-fluorophenyl)-3-methoxy-4,5,6,7-tetrahydroisobenzofuran-1(3H)-one | BrC=1C=C(C=CC1F)C1(OC(C=2CCCCC12)=O)OC | C15H14BrFO3
